US07151096B2
A mixture of 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one (1.05 g, 5.0 mmol), 3-ethoxycarbonylmethyl-phenyl-guanidine nitrite (1.42 g, 5.0 mmol), lithium hydroxide (0.12 g, 5.0 mmol) in 2-butanol (15 mL) is heated to reflux for 24 hours. After cooling to room temperature, the solvent is evaporated under reduced pressure. Water (40 mL) is added and extracted with ethyl acetate (2×50 mL). The combined organic layers are dried over sodium sulfate, filtrated and concentrated. The residue is dissolved in ethanol (30 mL) and treated with lithium hydroxide (0.48 g, 20 mmol). The reaction mixture is heated to reflux for 1 hour. After cooling to room temperature, the mixture is concentrated. The residue is dissolved in water and acidified with 10% hydrochloric acid. The solid is collected by filtration and washed with water, methanol and dried to give N-[3-carboxymethyl-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine (1.34 g); ESI-MS (m/z): 341.0 (M++H).

reactant | 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one | 5.0 mmol, 1.05 g | CN(C=CC(=O)C1=CC(=NC=C1)Cl)C | C10H11ClN2O
reactant | 3-ethoxycarbonylmethyl-phenyl-guanidine nitrite | 5.0 mmol, 1.42 g | N(=O)O.C(C)OC(=O)CC=1C=C(C=CC1)NC(=N)N
reactant | lithium hydroxide | 5.0 mmol, 0.12 g | [OH-].[Li+]
reactant | lithium hydroxide | 20 mmol, 0.48 g | [OH-].[Li+]
solvent | 2-butanol | 15 mL | CC(CC)O | C4H10O
product | N-[3-carboxymethyl-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine | 1.34 g | C(=O)(O)CC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C17H13ClN4O2
